US05686445
2-Chloro-6,11-Dihydro-5H-dibenz[b,e]azepine
To a mixture of 7.28 g of 2-chloro-5H-dibenz[b,e]azepine-6,11-dione in 25 ml of anhydrous tetrahydrofuran, under argon, is added dropwise 8.5 ml of (10M) boron-dimethyl sulfide. The reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is heated at reflux for 3 hours and cooled to room temperature. While stirring, 25 ml of methyl alcohol is carefully added, followed by 100 ml of 2N NaOH. The reaction mixture is heated at reflux for 24 hours and the solid collected. The solid is dissolved in methylene chloride and washed with 2N citric acid, water and dried (Na2SO4). The volatiles are evaporated in vacuo to give 4.16 g of a residue which is crystallized from ethyl acetate-hexane to give 2.05 g of the desired product as a crystalline solid, m.p. 137°-141° C.

reactant | 2-chloro-5H-dibenz[b,e]azepine-6,11-dione | 7.28 g | ClC1=CC2=C(NC(C3=C(C2=O)C=CC=C3)=O)C=C1 | C14H8ClNO2
reactant | boron dimethyl sulfide | 10M, 8.5 ml | [B].CSC
reactant | methyl alcohol | 25 ml | CO | CH4O
reactant | NaOH | 2N, 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-Chloro-6,11-Dihydro-5H-dibenz[b,e]azepine | 4.16 g | ClC1=CC2=C(NCC3=C(C2)C=CC=C3)C=C1 | C14H12ClN
